US08471027B2
A three-necked flask equipped with an addition funnel, a thermometer, and an overhead mechanical stirrer was charged with 2-amino-4-chlorobenzonitrile (150 g, 983 mmol) and tetrahydrofuran (3.0 L). The reaction flask was cooled to 15° C. and then was treated with methyl magnesium chloride (825 mL, 2.48 mol). Upon completion of addition of the methyl magnesium chloride, the cold bath was removed. The reaction was stirred at 25° C. overnight. At this time, the reaction mixture was cooled to 5° C. and then was treated slowly with a solution of water (500 mL) and concentrated hydrochloric acid (300 mL) while maintaining the reaction temperature under 25° C. The resulting thick suspension was stirred at 25° C. for 3 h. At this time, the mixture was cooled to 5° C. and treated with solid sodium hydroxide (300 g) in small portions. The reaction was stirred at 25° C. overnight. At this time, the organics were decanted off. The remaining thick paste was partitioned between water (2 L) and methyl tert-butyl ether (2 L). The organic layers were combined, concentrated in vacuo and then absorbed onto silica. Flash chromatography (4″×16″ silica gel column; 1-3% ethyl acetate/hexanes) followed by concentration of the appropriate fractions, slurrying with hexanes, filtration and drying afforded 1-(2-amino-4-chlorophenyl)ethanone (81 g, 48.6%) as a yellow solid. This material was used without further purification.

reactant | 2-amino-4-chlorobenzonitrile | 983 mmol, 150 g | NC1=C(C#N)C=CC(=C1)Cl | C7H5ClN2
reactant | methyl magnesium chloride | 2.48 mol, 825 mL | C[Mg]Cl
reactant | tetrahydrofuran | 3.0 L | O1CCCC1 | C4H8O
product | 1-(2-amino-4-chlorophenyl)ethanone | 81 g, 48.6% | NC1=C(C=CC(=C1)Cl)C(C)=O | C8H8ClNO
